US07932282B2
A mixture of crude 3-methyl-2-oxo-1-(3-pyridinyl)-4-imidazolidinecarboxylic acid (0.8 mmol), 1-hydroxybenzotriazole hydrate (147 mg, 0.96 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (184 mg, 0.96 mmol), and N-ethyl morpholine (0.307 ml, 2.4 mmol) in dichloromethane (15 ml) was stirred at room temperature for 10 minutes. A solution of {[2-chloro-3-(trifluoromethyl)phenyl]methyl}amine (168 mg, 0.8 mmol) in dichloromethane (1 ml) was added and the reaction stirred at room temperature for 4 hours. The mixture was partitioned between dichloromethane and saturated sodium hydrogen carbonate solution. The organic phase was separated, washed with water and brine, dried and evaporated. The residue was purified by mass-directed automated HPLC. The solid was dissolved in methanol (5 ml) and anhydrous HCl in ether (1M, 0.5 ml) was added and the solution was evaporated. The resulting solid was collected, washed with ether and dried to give a pale yellow solid. The solid was dissolved in methanol and applied to a SCX ion exchange cartridge and washed with methanol and then 2M ammonia in methanol. The basic fractions were combined and evaporated and the resulting residue was triturated with ether, collected and dried to give N-{[2-Chloro-3-(trifluoromethyl)phenyl]methyl}-3-methyl-2-oxo-1-(3-pyridinyl)-4-imidazolidinecarboxamide (27 mg, 8%). LC/MS [M+H]+=413, retention time=1.96 minutes.

reactant | 3-methyl-2-oxo-1-(3-pyridinyl)-4-imidazolidinecarboxylic acid | 0.8 mmol | CN1C(N(CC1C(=O)O)C=1C=NC=CC1)=O | C10H11N3O3
reactant | 1-hydroxybenzotriazole hydrate | 0.96 mmol, 147 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.96 mmol, 184 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | N-ethyl morpholine | 2.4 mmol, 0.307 ml | C(C)N1CCOCC1 | C6H13NO
reactant | {[2-chloro-3-(trifluoromethyl)phenyl]methyl}amine | 0.8 mmol, 168 mg | ClC1=C(C=CC=C1C(F)(F)F)CN | C8H7ClF3N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | N-{[2-Chloro-3-(trifluoromethyl)phenyl]methyl}-3-methyl-2-oxo-1-(3-pyridinyl)-4-imidazolidinecarboxamide | 27 mg, 8% | ClC1=C(C=CC=C1C(F)(F)F)CNC(=O)C1N(C(N(C1)C=1C=NC=CC1)=O)C | C18H16ClF3N4O2
